US09260408B2
{2-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-ethyl}-carbamic acid tert-butyl ester
In analogy to the procedure described for the preparation of example 45, 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-22) has been coupled to [2-(5-bromo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester (intermediate A-7) to give the title compound as a yellow waxy solid. MS: 416.4 (M+H+).

reactant | 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | FC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
reactant | [2-(5-bromo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOC=1C=NC=C(C1)Br)=O | C12H17BrN2O3
product | {2-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOC=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1F)C)=O)=O | C22H26FN3O4
